US07241792B2
3-Ethoxycarbonylpropyltriethylphosphonium bromide (5.488 g, 12.00 mmol), benzaldehyde (3.820 g, 36.00 mmol) and potassium tert-butoxide (4.040 g, 36.00 mmol) were taken up in MTBE (300 mL) at room temperature and was stirred overnight. The reaction mixture was washed with water (1×100 mL) and the aqueous phase was extracted with MTBE (3×100 mL). Solvent was removed from the combined organic phase under reduced pressure and the resulting oil purified by column chromatography (0–10% EtOAc/n-hexane, silica) to give (Z)-ethyl 5-phenylpent-4-enoate as a pale yellow oil. 1H NMR (CDCl3): δ 7.36–7.31 (m, 2H), 7.28–7.21 (m, 3H), 6.47 (d, 1H, J=11.6, Ph-CH), 5.63 (dt, 1H, J1=11.6, J2=7.2), 4.14 (q, 2H, J=7.2), 2.66 (dq, 2H, J1=7.3, J2=1.7), 2.43 (t, 2H, J=7.6), 1.24 (t, 3H, J=7.1). Contains ca. 33% (E)-ethyl 5-phenylpent-4-enoate

reactant | 3-Ethoxycarbonylpropyltriethylphosphonium bromide | 12.00 mmol, 5.488 g | [Br-].C(C)OC(=O)CCC[P+](CC)(CC)CC
reactant | benzaldehyde | 36.00 mmol, 3.820 g | C(C1=CC=CC=C1)=O | C7H6O
reactant | potassium tert-butoxide | 36.00 mmol, 4.040 g | CC(C)([O-])C.[K+]
solvent | MTBE | 300 mL | CC(C)(C)OC | C5H12O
product | (Z)-ethyl 5-phenylpent-4-enoate | C1(=CC=CC=C1)\C=C/CCC(=O)OCC | C13H16O2
